US08957070B2
Ethyl 2-[7-amino-1-(methoxymethyl)-1H-indol-2-yl]-1,3-thiazole-5-carboxylate
A mixture of ethyl 2-[1-(methoxymethyl)-7-nitro-1H-indol-2-yl]-1,3-thiazole-5-carboxylate (2.44 g), iron(III) chloride hexahydrate (92 mg), activated carbon (1.0 g), tetrahydrofuran (10 mL) and ethanol (5 mL) was heated under reflux for 20 min. To the reaction mixture was added hydrazine monohydrate (2.05 g) over 15 min while heating under reflux. The reaction mixture was heated under reflux for 5 hr, filtrated, and the filtrate was concentrated. The residue was dissolved in ethyl acetate, washed with saturated brine, dried (MgSO4), and concentrated. Isopropyl ether was added to the obtained residue. The resulting crystals were collected by filtration, washed with isopropyl ether, and dried to give the title compound (2.18 g, yield 97%) as yellow crystals. melting point 188-190° C.

reactant | ethyl 2-[1-(methoxymethyl)-7-nitro-1H-indol-2-yl]-1,3-thiazole-5-carboxylate | 2.44 g | COCN1C(=CC2=CC=CC(=C12)[N+](=O)[O-])C=1SC(=CN1)C(=O)OCC | C16H15N3O5S
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
reactant | hydrazine monohydrate | 2.05 g | O.NN
catalyst | iron(III) chloride hexahydrate | 92 mg | O.O.O.O.O.O.[Fe](Cl)(Cl)Cl
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | Ethyl 2-[7-amino-1-(methoxymethyl)-1H-indol-2-yl]-1,3-thiazole-5-carboxylate | 2.18 g, yield 97% | NC=1C=CC=C2C=C(N(C12)COC)C=1SC(=CN1)C(=O)OCC | C16H17N3O3S
